US05639914
9.05 g (0.01 mol) of 1,1-bis[p-[N-(4'-anilino-4-biphenylyl)anilino]phenyl]cyclohexane thus obtained, 4.49 g (0.022 mol) of iodobenzene, 2.90 g (0.021 mol) of anhydrous potassium carbonate, 0.32 g (0.005 mol) of copper powder, and 15 ml of nitrobenzene were mixed. The reaction mixture was then allowed to undergo reaction at a temperature of 198° C. to 213° C. for 19 hours. The reaction product was then extracted with 150 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated. To the concentrate was then added 110 ml of n-hexane to recover a crude crystal. The crude crystal thus recovered was then purified by column chromatography (carrier: silica gel; elute: 2/3 mixture of toluene and n-hexane) to obtain 5.17 g (yield: 48.9%) of 1,1-bis[p-[N-(4'-diphenylamino-4-biphenylyl)anilino]phenyl]cyclohexane. The melting point of the product was indefinite.

reactant | iodobenzene | 0.022 mol, 4.49 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 0.021 mol, 2.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 15 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.005 mol, 0.32 g | [Cu] | Cu
product | 1,1-bis[p-[N-(4'-diphenylamino-4-biphenylyl)anilino]phenyl]cyclohexane | 5.17 g, yield: 48.9% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)C1(CCCCC1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C78H64N4
